US08975256B2
7-(4-Fluoro-2-methoxyphenyl)-8-phenoxymethyl-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one (Compound No. 3-1)
A mixture of 8-chloromethyl-7-(4-fluoro-2-methoxyphenyl)-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 4-1, 47.1 mg, 0.14 mmol), phenol (37.5 mg, 0.40 mmol), and potassium carbonate (73.0 mg, 0.53 mmol) was suspended in anhydrous N,N-dimethylformamide (1.5 mL) and stirred at 80° C. for 19 hours. After cooling down, ethyl acetate (30 mL) and water (30 mL) were added to the reaction mixture and partitioned. The organic layer was washed with water (30 mL) and saturated brine (30 mL) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled compound (35.7 mg) as a pale yellow solid. (Yield 67%)

reactant | 8-chloromethyl-7-(4-fluoro-2-methoxyphenyl)-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one | ClCC=1C(=CC=C2NC(C(NC12)=O)(C)C)C1=C(C=C(C=C1)F)OC | C18H18ClFN2O2
reactant | phenol | 0.40 mmol, 37.5 mg | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 0.53 mmol, 73.0 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | water | 30 mL | O | H2O
product | 7-(4-Fluoro-2-methoxyphenyl)-8-phenoxymethyl-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one | 35.7 mg, Yield 67% | FC1=CC(=C(C=C1)C1=CC=C2NC(C(NC2=C1COC1=CC=CC=C1)=O)(C)C)OC | C24H23FN2O3
